US07910595B2
4-(4-tert-Butoxycarbonylamino-phenylsulfanyl)-3-nitro-benzoic acid methyl ester
A solution of 4-(4-amino-phenylsulfanyl)-3-nitro-benzoic acid methyl ester (18.5 g, 61 mmol) and Boc2O (26.8 g, 122 mmol) in p-dioxane (280 mL) was heated at 90° C. for 3 hours. An additional Boc2O (26.8 g, 122 mmol) was added and the mixture was heated at 90° C. for 3 hours. A second additional Boc2O (13.4 g, 61 mmol) was added and the mixture was heated at 90° C. for 4 hours. The reaction mixture was cooled to room temperature, and then evaporated. The residue was diluted with i-Pr2O (250 mL) and the mixture was stirred at room temperature for 1 hour. The resulting crystal was collected by filtration, washed with i-Pr2O and dried at 60° C. overnight under reduced pressure to give the title compound as yellow crystal (22.8 g, 93%).

reactant | 4-(4-amino-phenylsulfanyl)-3-nitro-benzoic acid methyl ester | 61 mmol, 18.5 g | COC(C1=CC(=C(C=C1)SC1=CC=C(C=C1)N)[N+](=O)[O-])=O | C14H12N2O4S
reactant | Boc2O | 122 mmol, 26.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 122 mmol, 26.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 61 mmol, 13.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | p-dioxane | 280 mL | O1CCOCC1 | C4H8O2
product | 4-(4-tert-Butoxycarbonylamino-phenylsulfanyl)-3-nitro-benzoic acid methyl ester | 22.8 g, 93% | COC(C1=CC(=C(C=C1)SC1=CC=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C19H20N2O6S
